US07160887B1
5% carbon-palladium (1.3 g) was added to an ethyl acetate (100 ml) solution of 2-tert-butoxycarbonyl-5-(5-chloro-2-nitrophenoxy)-1,2,3,4-tetrahydroisoquinoline (4.25 g, 10.5 mmols). The resulting mixture was hydrogenated at room temperature under atmospheric pressure. The catalyst was removed through filtration, and the filtrate was concentrated under reduced pressure. The residue was purified through silica gel column chromatography to give an oil of 5-(2-amino-5-chlorophenoxy)-2-tert-butoxycarbonyl-1,2,3,4-tetrahydroisoquinoline (2.95 g, 75%).

reactant | 2-tert-butoxycarbonyl-5-(5-chloro-2-nitrophenoxy)-1,2,3,4-tetrahydroisoquinoline | 10.5 mmols, 4.25 g | C(C)(C)(C)OC(=O)N1CC2=CC=CC(=C2CC1)OC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C20H21ClN2O5
catalyst | carbon palladium | 1.3 g | [C].[Pd]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 5-(2-amino-5-chlorophenoxy)-2-tert-butoxycarbonyl-1,2,3,4-tetrahydroisoquinoline | 2.95 g, 75% | NC1=C(OC2=C3CCN(CC3=CC=C2)C(=O)OC(C)(C)C)C=C(C=C1)Cl | C20H23ClN2O3
